US05246951
3-(2-Chloroethyl)Benzoselenazolinone
0.06 mol of potassium carbonate and then 0.015 mol of 1-bromo-2-chloroethane are added to a solution of 0.015 mol of benzoselenazolinone in 30 cm3 of dimethylformamide. The mixture is heated to 50° C. with stirring for six hours. The inorganic precipitate is drained and then washed with dimethyl formamide. The DMF is evaporated off under reduced pressure and the residue is taken up with water. An extraction with ether is then carried out. The organic phase is dried over sodium sulfate and then filtered. The ether phase is evaporated to dryness under reduced pressure and the product is recrystallized in petroleum ether.

reactant | potassium carbonate | 0.06 mol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-2-chloroethane | 0.015 mol | BrCCCl | C2H4BrCl
reactant | benzoselenazolinone | 0.015 mol | [Se]1(C=NC2=C1C=CC=C2)=O | C7H5NOSe
solvent | dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
product | 3-(2-Chloroethyl)Benzoselenazolinone | ClCCN1C[Se](C2=C1C=CC=C2)=O | C9H10ClNOSe
